US04355040
1 g of 2-phenyl-4-chloro-5-hydroxymethylimidazole, together with 0.7 ml of p-methylbenzyl bromide and 3 g of potassium carbonate, was stirred in 10 ml of dimethylformamide at 30° C. for 2 days. The reaction solution was poured into 100 ml of water, and the precipitate deposited was chromatographed on a column of 30 g of silica gel, followed by eluting with chloroform. The initially eluted fraction was collected, and recrystallization from aqueous methanol yielded 0.5 g of 2-phenyl-4-chloro-5-hydroxymethyl-1-(4-methylbenzyl)imidazole as colorless, needle-formed crystals, m.p. 173°-175° C.

reactant | 2-phenyl-4-chloro-5-hydroxymethylimidazole | 1 g | C1(=CC=CC=C1)C=1NC(=C(N1)Cl)CO | C10H9ClN2O
reactant | p-methylbenzyl bromide | 0.7 ml | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-phenyl-4-chloro-5-hydroxymethyl-1-(4-methylbenzyl)imidazole | 0.5 g | C1(=CC=CC=C1)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C | C18H17ClN2O
